US03932452
1-(2,6-Dichlorobenzyl)-2-imidazolidinone
A 21.5 g (0.25 mole) portion of 2-imidazolidinone in 250 ml of dimethylsulfoxide was treated with 34.5 g (0.25 mole) of K2CO3, 20 g (0.12 mole) of KI and 48.9 g (0.25 mole) of 2,6-dichlorobenzyl chloride. The reaction mixture was heated to 105° over 0.3 hours, held at 105° for 1.7 hours and poured into 1.5 l of water all with rapid stirring. The aqueous mixture was extracted with 1.3 l of chloroform. The chloroform extract was washed with 500 ml of water, dried over MgSO4 overnight and filtered. The filtrate was concentrated under reduced pressure leaving %) 48 g (79(of a light yellow viscous oil. The crude product was crystallized using 125 ml of ether, filtered, air dried and dried to a constant weight at 60° to give 13 g (21%) of a white solid m.p. 156°-158°.

reactant | 2-imidazolidinone | N1C(NCC1)=O | C3H6N2O
reactant | K2CO3 | 0.25 mole, 34.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,6-dichlorobenzyl chloride | 0.25 mole, 48.9 g | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
reactant | water | 1.5 l | O | H2O
solvent | dimethylsulfoxide | 250 ml | CS(=O)C | C2H6OS
product | 1-(2,6-Dichlorobenzyl)-2-imidazolidinone | 13 g, 21% | ClC1=C(CN2C(NCC2)=O)C(=CC=C1)Cl | C10H10Cl2N2O
